US06100260
Under a nitrogen atmosphere, ethyl 2-(2-fluoro-biphenyl-4-yl)-2-hydroxy-propionate (Japanese Patent Unexamined Publication No. 52-105,144) (15.0 g) was dissolved in N,N-dimethylformamide (300 ml) and then sodium hydride (4.16 g, 60% oily) was added under ice-cooling, after which the resulting mixture was stirred for one hour. Subsequently, iodoethane (10.4 ml) was added and the resulting mixture was stirred for 12 hours. To the reaction mixture were added a small amount of water and ethanol, and thereafter, the solvent was removed by azeotropic distillation using toluene. To the residue was added ethyl acetate and the resulting mixture was neutralized with a saturated aqueous sodium bicarbonate solution and then subjected to extraction with ethyl acetate. The organic layer was dried over sodium sulfate and then concentrated under reduced pressure to obtain ethyl 2-ethoxy2-(2-fluoro-biphenyl-4-yl)-propionate.

reactant | ethyl 2-(2-fluoro-biphenyl-4-yl)-2-hydroxy-propionate | FC1=C(C=CC(=C1)C(C(=O)OCC)(C)O)C1=CC=CC=C1 | C17H17FO3
reactant | sodium hydride | 4.16 g | [H-].[Na+]
reactant | iodoethane | 10.4 ml | ICC | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-ethoxy2-(2-fluoro-biphenyl-4-yl)-propionate | C(C)OC(C(=O)OCC)(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C19H21FO3
